Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Cipro / Bethanechol / Amitiza / midodrine
 
Attending: ___.
 
Chief Complaint:
s/p ERCP monitoring
 
Major Surgical or Invasive Procedure:
___ ERCP/sphincterotomy with extraction of sludge 

 
History of Present Illness:
___ with hx of ___ disease, osteoporosis,
depression, IBS, cholelithiasis s/p lap CCY on ___ (Dr. 
___
presenting for monitoring after ERCP. Pt called surgical 
coverage
on ___ with reports of constipation (last BM at that time
___, malaise, dark urine, and gas pains in shoulders and
across upper abdomen, along with nausea without emesis. Of note,
she has a history of IBS for which she takes miralax daily. She
was advised to increase bowel regimen from Colace and Miralax
with addition of Dulcolax PR. She called again on ___ noting
that she had had  BM on ___ BM, but that malaise, anorexia,
and nausea persisted, with "bright orange" urine. Denies F/C,
hematochezia, melena. Labs were ordered, and returned with ALT
336, AST 428, alk phos 288, Tbili 2.4, Dbili 1.9, and UA 
negative
for pyuria. Pt was scheduled for ERCP on ___.

Pt underwent ERCP on ___, with sphincterotomy and extraction
of a small amount of sludge, without evidence of bile leak.
Occlusion cholangiogram showed no evidence of filling defects in
the CBD and no bile leak. 

On arrival to the floor, she reports feeling "pretty good,"
denies nausea, chest pain, SOB. She did have frontal headaches
after surgery, but headaches have now resolved. Endorses cough
which she attributes to "mucus in my throat," but unable to 
cough
anything up. Denies ___ edema.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
___ disease, osteoporosis, depression, IBS,
cholelithiasis s/p lap CCY 
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this 
hospitalization/illness
 
Physical Exam:
VS: 98.1 PO 124 / 68 68 18 94 RA 
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, dry mucus membranes, ears without lesions or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, trace TTP with deep palpation at epigastrium, without
rebounding or guarding, nondistended with hypoactive bowel
sounds, no hepatomegaly. Steristrips in place over port sites,
without surrounding erythema or drainage.
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect
 
Pertinent Results:
Labs
========

___ 07:00AM BLOOD WBC-7.4 RBC-3.65* Hgb-11.2 Hct-34.8 
MCV-95 MCH-30.7 MCHC-32.2 RDW-13.2 RDWSD-46.4* Plt ___
___ 07:00AM BLOOD Glucose-77 UreaN-10 Creat-0.5 Na-144 
K-3.7 Cl-102 HCO3-29 AnGap-13
___ 07:00AM BLOOD ALT-426* AST-116* LD(___)-176 
AlkPhos-206* TotBili-1.1
___ 01:00PM BLOOD ALT-336* AST-428* AlkPhos-288* 
TotBili-2.4* DirBili-1.9* IndBili-0.5
___ 01:00PM BLOOD TotProt-6.3* Albumin-3.6 Globuln-2.7

Imaging and studies
===================

___ ERCP
Successful ERCP with sphincterotomy and extraction of a small 
amount of sludge as described above. There was no evidence of 
bile leak. Occlusion cholangiogram showed no evidence of filling 
defects in the CBD and no bile leadk.

 
Brief Hospital Course:
___ female status post cholecystectomy ___ was 
admitted ___ with elevated LFTs and abdominal discomfort and 
underwent an ERCP/sphincterotomy for extraction of sludge. She 
was stable the next morning (___) and tolerating clear 
liquids. She easily transitioned from there to a regular diet. 
She reported mild abdominal discomfort/gas/nausea, with mild 
epigastric tenderness on exam. Her LFTs were trending down, 
although her ALT bumped slightly. Advanced Endoscopy saw here 
again and felt she was okay to go home if she was tolerating a 
regular diet. She is being set up for follow-up with Dr. ___. 
Her husband picked her up when she was discharged in early 
afternoon.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fludrocortisone Acetate 0.1 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Carbidopa-Levodopa (___) 1 TAB PO QID 
4. BuPROPion XL (Once Daily) 300 mg PO DAILY 
5. Acyclovir 200 mg PO DAILY 
6. Zolpidem Tartrate 2.5 mg PO QHS:PRN insomnia 
7. TraZODone 50 mg PO QHS 
8. FLUoxetine 40 mg PO DAILY 
9. Carbidopa-Levodopa (___) 0.5 TAB PO QAM 
10. Polyethylene Glycol 17 g PO DAILY 
11. Docusate Sodium 100 mg PO DAILY:PRN Constipation - Second 
Line 

 
Discharge Medications:
1.  Acyclovir 200 mg PO DAILY  
2.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
3.  Carbidopa-Levodopa (___) 1 TAB PO QID  
4.  Carbidopa-Levodopa (___) 0.5 TAB PO QAM  
5.  Docusate Sodium 100 mg PO DAILY:PRN Constipation - Second 
Line  
6.  Fludrocortisone Acetate 0.1 mg PO DAILY  
7.  FLUoxetine 40 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Polyethylene Glycol 17 g PO DAILY  
10.  TraZODone 50 mg PO QHS  
11.  Zolpidem Tartrate 2.5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ERCP/sphincterotomy with extraction of sludge following recent 
elective cholecystectomy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for an ERCP to clean up the biliary tract 
after developing abdominal pain and abnormal liver labs 
following an outpatient cholecystectomy. 

We think you are safe to go home now. 

You already have follow-up appointments scheduled.

It's been a pleasure to participate in your care.

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___